US09120749B2
tert-Butyl 2-{4-[3-(cyclopropanecarbonyl)-6-(3,5-dichloro-4-hydroxyphenyl)quinolin-4-ylamino]phenyl}propan-2-ylcarbamate
Following general procedure F, tert-butyl 2-{4-[6-bromo-3-(cyclopropanecarbonyl)quinolin-4-ylamino]phenyl}propan-2-ylcarbamate (76 mg, 0.145 mmol) was reacted with 2,6-dichloro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol (63 mg, 0.212 mmol) to afford the crude product (75 mg) as a yellow solid: ESI MS m/z 606 [C33H33Cl2N3O4+H]+.

reactant | tert-butyl 2-{4-[6-bromo-3-(cyclopropanecarbonyl)quinolin-4-ylamino]phenyl}propan-2-ylcarbamate | 0.145 mmol, 76 mg | BrC=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)NC1=CC=C(C=C1)C(C)(C)NC(OC(C)(C)C)=O | C27H30BrN3O3
reactant | 2,6-dichloro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol | 0.212 mmol, 63 mg | ClC1=C(C(=CC(=C1)B1OC(C(O1)(C)C)(C)C)Cl)O | C12H15BCl2O3
product | tert-Butyl 2-{4-[3-(cyclopropanecarbonyl)-6-(3,5-dichloro-4-hydroxyphenyl)quinolin-4-ylamino]phenyl}propan-2-ylcarbamate | 75 mg | C1(CC1)C(=O)C=1C=NC2=CC=C(C=C2C1NC1=CC=C(C=C1)C(C)(C)NC(OC(C)(C)C)=O)C1=CC(=C(C(=C1)Cl)O)Cl | C33H33Cl2N3O4
